US08293768B2
Preparation of (R)-ethyl 2-(3-(1-hydroxy-3-phenylpropan-2-yl)ureido)-4-methylthiazole-5-carboxylate
To a solution of ethyl 2-amino-4-methylthiazole-5-carboxylate (1.86 g, 10.0 mmol) in tetrahydrofuran (50 mL) was added 1,1′-carbonyldiimidazole (1.95 g, 12.0 mmol) at ambient temperature. The resulting reaction mixture was stirred at ambient temperature for 17 hours, followed by the addition of (R)-(+)-2-amino-3-phenyl-1-propanol (2.00 g, 13.2 mmol). The reaction mixture was kept stirring at ambient temperature for 50 hours. The solvent was removed in vacuo. The residue was dissolved in ethyl acetate (200 mL) and washed with water and brine. The organic solution was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to afford the title compound in 88% (3.20 g): MS (ES+) m/z 364.4 (M+1).

reactant | ethyl 2-amino-4-methylthiazole-5-carboxylate | 10.0 mmol, 1.86 g | NC=1SC(=C(N1)C)C(=O)OCC | C7H10N2O2S
reactant | 1,1′-carbonyldiimidazole | 12.0 mmol, 1.95 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (R)-(+)-2-amino-3-phenyl-1-propanol | 13.2 mmol, 2.00 g | N[C@@H](CO)CC1=CC=CC=C1 | C9H13NO
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (R)-ethyl 2-(3-(1-hydroxy-3-phenylpropan-2-yl)ureido)-4-methylthiazole-5-carboxylate | OC[C@@H](CC1=CC=CC=C1)NC(NC=1SC(=C(N1)C)C(=O)OCC)=O | C17H21N3O4S
